US07160888B2
Synthesis of 1-Methyl-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one
To a solution of 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol (422 mg, 1.48 mmol) in THF (5 mL) cooled to 0° C. was added 7-chloro-1-methyl-1H-[1,8]naphthyridin-2-one (303 mg, 1.56 mmol) as a solution in THF (9 mL) via cannula. The reaction was stirred for about 2 h at 0° C. The reaction was quenched with saturated NH4Cl and the mixture was extracted with EtOAc. The organic layer was washed with saturated NaHCO3 and brine, dried over Na2SO4 and concentrated. Purification by LC (4% MeOH/CH2Cl2) gave the title compound as a white foam (507 mg, 1.15 mmol, 77%). A portion of the title compound (243 mg, 0.549 mmol) was dissolved in Et2O and 1 N HCl in Et2O (0.55 mL) was added. The resulting white precipitate was collected by filtration, washed with Et2O and dried to give a white solid (248 mg). MS: APCI: M+1: 443.3 (Exact Mass: 442.24).

reactant | 4-(4-naphthalen-1-yl-piperazin-1-yl)-butan-1-ol | 1.48 mmol, 422 mg | C1(=CC=CC2=CC=CC=C12)N1CCN(CC1)CCCCO | C18H24N2O
reactant | 7-chloro-1-methyl-1H-[1,8]naphthyridin-2-one | 1.56 mmol, 303 mg | ClC1=CC=C2C=CC(N(C2=N1)C)=O | C9H7ClN2O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 9 mL | C1CCOC1 | C4H8O
product | 1-Methyl-7-[4-(4-naphthalen-1-yl-piperazin-1-yl)-butoxy]-1H-[1,8]naphthyridin-2-one | 1.15 mmol, 507 mg, 77% | CN1C(C=CC2=CC=C(N=C12)OCCCCN1CCN(CC1)C1=CC=CC2=CC=CC=C12)=O | C27H30N4O2
